US07138425B2
d) 2-[4-Propylamino-3-[5-(2-benzofuranyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 1b), from 2-(2-propylamino-5-aminophenyl)-5-(2-benzofuranyl)benzoxazole (50 mg, 0.13 mmol) and 1,2,4-benzenetricarboxylic anhydride (30 mg, 0.13 mmol) the title compound was obtained (40 mg, 55%). 1H NMR (DMSO) δ 8.53(t, 1H), 8.46(dd, 1H), 8.37(d, 2H), 8.18(d, 1H), 8.12(d, 1H), 8.05(dd, 1H), 7.93(d, 1H), 7.72(m, 2H), 7.60(s, 1H), 7.54(dd, 1H), 7.36(m, 2H), 7.10(d, 1H), 3.44(m, 2H), 1.84(m, 2H), 1.15(t, 3H). MS 556 m/z (M−H)−.

reactant | 2-(2-propylamino-5-aminophenyl)-5-(2-benzofuranyl)benzoxazole | 0.13 mmol, 50 mg | C(CC)NC1=C(C=C(C=C1)N)C=1OC2=C(N1)C=C(C=C2)C=2OC1=C(C2)C=CC=C1 | C24H21N3O2
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.13 mmol, 30 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[4-Propylamino-3-[5-(2-benzofuranyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | C(CC)NC1=C(C=C(C=C1)N1C(C2=CC=C(C=C2C1=O)C(=O)O)=O)C=1OC2=C(N1)C=C(C=C2)C=2OC1=C(C2)C=CC=C1 | C33H23N3O6
